US07547697B2
(1SR,8RS)-5-(1-Cyclopropyl-1-methyl-ethyl)-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene
white solid. MS (ESI): 229.2 (MH+). Prepared from bicyclo[2.2.1]heptan-2,3-dione, (3-cyclopropyl-3-methyl-2-oxo-butyl)-phosphonic acid dimethyl ester, hydrazine monohydrate. Submission of the racemate to preparative HPLC, using a chiral column, Chiralpak AD, with 5% isopropanol/heptane as eluant gave the two enantiomers, in optically pure form.

reactant | bicyclo[2.2.1]heptan-2,3-dione | C12C(C(C(CC1)C2)=O)=O | C7H8O2
reactant | (3-cyclopropyl-3-methyl-2-oxo-butyl)-phosphonic acid dimethyl ester | COP(OC)(=O)CC(C(C)(C)C1CC1)=O | C10H19O4P
reactant | hydrazine monohydrate | O.NN
solvent | isopropanol heptane | C(C)(C)O.CCCCCCC
product | (1SR,8RS)-5-(1-Cyclopropyl-1-methyl-ethyl)-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene | C1(CC1)C(C)(C)C1=NN=C2C3CCC(C2=C1)C3 | C15H20N2
